US06423688B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-aspartic Acid 4-tert-Butyl Ester
N-(Toluene4-sulfonyl)-L-proline hydrate was coupled to β-tert-butyl L-aspartic acid methyl ester hydrochloride using the procedure described in Method 3. The title compound was prepared, via hydrolysis of the methyl ester using LiOH in THF/water, as a solid, mp=153-155° C.

reactant | N-(Toluene4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | β-tert-butyl L-aspartic acid methyl ester hydrochloride | Cl.COC([C@@H](N)C(C(=O)O)C(C)(C)C)=O
reactant | LiOH | [Li+].[OH-]
solvent | THF water | C1CCOC1.O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-aspartic Acid 4-tert-Butyl Ester | C(C)(C)(C)OC(C[C@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)C(=O)O)=O | C20H28N2O7S
